US07915424B2
3-Trifluoromethyl-5-phenylethynylpyridine
Charge a sealed tube under a positive pressure of argon with bis(acetonitrile)palladium (II) chloride (18 mg, 0.07 mmol), 2-dicyclohexylphosphino diphenyl (73 mg, 0.21 mmol), cesium carbonate (0.557 g, 1.71 mmol) and 3-chloro-5-trifluoromethylpyridine, (prepared essentially as described in PREPARATION 7), (0.12 g, 0.66 mmol) in acetonitrile and stir at room temperature for 25 min (Angew. Chem. Int. Ed. 42, 5993-5996, (2003)). Add phenylacetylene (0.1 mL, 0.86 mmol) and stir at 100° C. for 16 h. Cool to room temperature, dilute with water, and wash twice with ethyl acetate. Combine the ethyl acetate layers, dry (sodium sulfate), and concentrate. Purify the residue by silica gel chromatography, eluting with 100:0 to 50:50 hexanes:dichloromethane, to obtain the title compound (30 mg, 10%).

reactant | cesium carbonate | 1.71 mmol, 0.557 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-chloro-5-trifluoromethylpyridine | ClC=1C=NC=C(C1)C(F)(F)F | C6H3ClF3N
reactant | phenylacetylene | 0.86 mmol, 0.1 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | bis(acetonitrile)palladium (II) chloride | 0.07 mmol, 18 mg | CC#N.CC#N.Cl[Pd]Cl
product | 3-Trifluoromethyl-5-phenylethynylpyridine | 30 mg, 10% | FC(C=1C=NC=C(C1)C#CC1=CC=CC=C1)(F)F | C14H8F3N
